US04389412
In 120 ml of dry benzene was dissolved 11.4 g of 2,2-dimethyl-3-(2,2-dichlorovinyl)cyclopropanecarbonyl chloride (cis-/trans-ratio=50:50, approx.) followed by addition of 12.9 g. of 3-(4-chlorophenoxy)-α-ethynylbenzyl alcohol and further by dropwise addition of 7.9 g of pyridine. The mixture was stirred at room temperature overnight. Thereafter, the reaction mixture was diluted with 100 g of water and the benzene layer was separated, washed with dilute hydrochloric acid and water and dried over anhydrous magnesium sulfate. The low-boiling fraction was then distilled off under reduced pressure to recover an oil. This oily product was purified by preparative liquid chromatograpy [column: Water's Associates' Prep LC/System 500, Prep PAK® 500/SILICA; solvent system: diethyl ether:n-hexane=2:98]. The above procedure yielded 20.2 g of 3-(4-chlorophenoxy)-α-ethynylbenzyl 2,2-dimethyl-3-(2,2-dichlorovinyl)cyclopropanecarboxylate (yield 90%). The separation of cis- and trans-isomers from each other can be effected by the above-mentioned preparative liquid chromatography. The NMR spectra of such isomers are indicated below.

reactant | 2,2-dimethyl-3-(2,2-dichlorovinyl)cyclopropanecarbonyl chloride | 11.4 g | CC1(C(C1C=C(Cl)Cl)C(=O)Cl)C | C8H9Cl3O
reactant | 3-(4-chlorophenoxy)-α-ethynylbenzyl alcohol | ClC1=CC=C(OC=2C=C(C(C#C)O)C=CC2)C=C1 | C15H11ClO2
reactant | pyridine | 7.9 g | N1=CC=CC=C1 | C5H5N
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 g | O | H2O
product | 3-(4-chlorophenoxy)-α-ethynylbenzyl 2,2-dimethyl-3-(2,2-dichlorovinyl)cyclopropanecarboxylate | 20.2 g, yield 90% | CC1(C(C1C=C(Cl)Cl)C(=O)OC(C1=CC(=CC=C1)OC1=CC=C(C=C1)Cl)C#C)C | C23H19Cl3O3
